US06586447B1
1F. 4-[6-(4-Cyano-phenyl)-2-oxo-3,3-bis-(1-trityl-1H-imidazol4-ylmethyl)-2,3-dihydro-indol-1-ylmethyl]-N,N-dimethyl-benzenesulfonamide
4-[6-(4-Cyano-phenyl)-2-oxo-2,3-dihydro-indol-1-ylmethyl]-N,N-dimethyl-benzenesulfonamide (216 mg, 0.501 mmol) and 4-chloromethyl-1-trityl-1H-imidazole compound (402 mg, 1.12 mmol) were dissolved in 5 ml of anhydrous THF under an atmosphere of dry N2. To this solution was added 95% potassium hexamethyldisilylamide (KHMDS) (230 mg, 1.10 mmol) and the reaction mixture was subsequently stirred overnight. The reaction mixture was partitioned between DCM and saturated aqueous NaHCO3. The DCM layer was dried over sodium sulfate (Na2SO4), filtered and concentrated under vacuum to give a purple foam which was chromatographed on flash silica gel eluting with a gradient of chloroform (CHCl3) to CHCl3/MeOH/NH4OH (98/2/0.01) to give 300 mg of the titled compound as a pink oil.

reactant | 4-[6-(4-Cyano-phenyl)-2-oxo-2,3-dihydro-indol-1-ylmethyl]-N,N-dimethyl-benzenesulfonamide | 0.501 mmol, 216 mg | C(#N)C1=CC=C(C=C1)C1=CC=C2CC(N(C2=C1)CC1=CC=C(C=C1)S(=O)(=O)N(C)C)=O | C24H21N3O3S
reactant | 4-chloromethyl-1-trityl-1H-imidazole | 1.12 mmol, 402 mg | ClCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19ClN2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-[6-(4-Cyano-phenyl)-2-oxo-3,3-bis-(1-trityl-1H-imidazol4-ylmethyl)-2,3-dihydro-indol-1-ylmethyl]-N,N-dimethyl-benzenesulfonamide | 300 mg | C(#N)C1=CC=C(C=C1)C1=CC=C2C(C(N(C2=C1)CC1=CC=C(C=C1)S(=O)(=O)N(C)C)=O)(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C70H57N7O3S
